### PR TITLE
PlainCombi: Upper bound on intersecting families

### LINKED ISSUE #38: Upper bound on l-intersecting families
Let $1 \le \ell < r$ be fixed. If $n$ is large enough and $\mathcal A \subseteq X^{(r)}$ is an $\ell$-intersecting family, then $|\mathcal A| \le \binom{n - \ell}{r - \ell}$.

This is [Theorem 1.17 in the lecture notes](https://github.com/YaelDillies/maths-notes/blob/master/combinatorics.pdf).

### PR DESCRIPTION
**Pull request by yahelmanor**
Proof of theorem 1.17 from the the lecture notes. Closes #38.

The proof is slightly different for the lecture notes. As far as i understand, the original proof claims that given that `#U ≤ 3 * r` and `∀ a ∈ 𝒜, l + 1 ≤ #(a ∩ U)` then  `#𝒜 ≤(3 * r).choose (l+1) * n.choose (r - (l+1))`. I think this might be wrong as the bound should be something like the sum over i from 1 to r-l of `(3 * r).choose (l+i) * (n-(l+i)).choose (r - (l+i))`, and it is not clear to me how to recover the original bound from that. Instead i just bound this by the simpler bound of `2 ^ (3*r) * ((n - k).choose (r-(k+1)) * r)`.

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
Great work! Here's a style review. I will review the proof later

**Review by YaelDillies — COMMENTED** [review]
I think I figured out the argument you were missing. cf Zulip because typesetting on github seems a bit broken

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+Authors: Yahel Manor
+-/
+import Mathlib.Algebra.Order.BigOperators.Group.Finset
+import Mathlib.Algebra.Order.Sub.Basic
+import Mathlib.Data.Finset.NAry
+import Mathlib.Data.Finset.Slice
+
+/-!
+
+# Upper bound on `l`-intersecting families
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:13]:
```suggestion
# Upper bound on `l`-intersecting families
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 2]
```diff
@@ -0,0 +1,264 @@
...
+
+This file define `l`-intersecting families and prove a bound on their size.
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:15]:
```suggestion
This file defines `l`-intersecting families and proves an upper bound on their size.
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 3]
```diff
@@ -0,0 +1,264 @@
...
+
+A family is said to be `l`-intersecting if every two sets in the family have intersection of size at
+least `l`.
+
+## Main declaration
+
+* `intersectingFamliy`: `intersectingFamliy l A` means that every two elements have intersection of
+size at least l.
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:23]:
```suggestion
* `IsIntersectingFamily`: `IsIntersectingFamily l A` means that every two elements have
  intersection of size at least `l`.
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+
+## Main statements
+
+*  `IsIntersectingFamily.card_le_of_sized`: A intersecting family whose underlaying set is of size `n` and if all the sets in the family are of size
+`l` then the size of the family is at most `(n-l).choose (r-l)` if `n` is suffintly large.
+
+-/
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:30]:
```suggestion
-/
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 5]
```diff
@@ -0,0 +1,264 @@
...
+    (nonempty : Nonempty 𝒜) : l ≤ r := by
+  obtain ⟨x, x_in_𝒜⟩ := nonempty
+  rw [← sized x_in_𝒜, ← inter_self x]
+  exact inter x x_in_𝒜 x x_in_𝒜
+
+variable [Fintype α]
+
+theorem  IsIntersectingFamily.card_le_of_sized {l r:ℕ} {𝒜 : Finset (Finset α)} (sized𝒜 : @Set.Sized α r 𝒜)
+ (inter : IsIntersectingFamily l 𝒜) (n_much_bigger_r :2 ^ (3 * r) * r * r+ 5 * r ≤ Fintype.card α):
+ #𝒜 ≤ ((Fintype.card α)-l).choose (r-l) := by
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:50]:
```suggestion
theorem IsIntersectingFamily.card_le_of_sized {l r : ℕ} {𝒜 : Finset (Finset α)}
    (sized𝒜 : 𝒜.toSet.Sized r) (inter : IsIntersectingFamily l 𝒜)
    (n_much_bigger_r : 2 ^ (3 * r) * r * r + 5 * r ≤ Fintype.card α) :
    #𝒜 ≤ (Fintype.card α - l).choose (r - l) := by
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 6]
```diff
@@ -0,0 +1,264 @@
...
+    obtain rfl | ⟨el,el_in_𝒜⟩ := 𝒜.eq_empty_or_nonempty
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:51]:
```suggestion
    obtain rfl | ⟨el, el_in_𝒜⟩ := 𝒜.eq_empty_or_nonempty
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 7]
```diff
@@ -0,0 +1,264 @@
...
+    | of_succ k k_leq_r ind =>
+      by_cases inter_succ_k : IsIntersectingFamily (k + 1) 𝒜
+      . calc
+        _ ≤ (Fintype.card α - (k + 1)).choose (r - (k + 1)) := ind inter_succ_k
+        _ = (Fintype.card α - (k + 1)).choose (Fintype.card α - (k + 1) - (r - (k + 1))) := by
+          rw [Nat.choose_symm]; omega
+        _ = (Fintype.card α - (k + 1)).choose (Fintype.card α - r) := by congr 1;omega
+        _ = (Fintype.card α - k - 1).choose (Fintype.card α - r) := by congr 1
+        _ ≤ (Fintype.card α - k).choose (Fintype.card α - r) := by apply Nat.choose_mono;omega
+        _ ≤ (Fintype.card α - k).choose ((Fintype.card α - k) - (Fintype.card α - r)) := by
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:75]:
```suggestion
        _ ≤ (Fintype.card α - k).choose (Fintype.card α - k - (Fintype.card α - r)) := by
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 8]
```diff
@@ -0,0 +1,264 @@
...
+          refine card_image_iff.mpr ?_
+          simp [Set.InjOn]
+          intro x₁ x₁_in_𝒜 x₂ x₂_in_𝒜 x₁_sub_eq_x₂_sub
+          ext a
+          by_cases a_in_s:a∈s
+          . exact (iff_true_right (s_inter_a x₂ x₂_in_𝒜 a_in_s)).mpr (s_inter_a x₁ x₁_in_𝒜 a_in_s)
+          . have a_x_iff_a_in_mp : ∀ x∈𝒜, a∈x ↔ a ∈ ((·\s) x) := by
+              simp only [mem_sdiff, iff_self_and]
+              exact fun x a_1 a ↦ a_in_s
+            rw [(a_x_iff_a_in_mp x₁ x₁_in_𝒜),(a_x_iff_a_in_mp x₂ x₂_in_𝒜)]
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:95]:
```suggestion
            rw [a_x_iff_a_in_mp x₁ x₁_in_𝒜, a_x_iff_a_in_mp x₂ x₂_in_𝒜]
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 9]
```diff
@@ -0,0 +1,264 @@
...
+          exists ((·\s) x).1
+          simp only [card_val, exists_prop, and_true]
+          constructor
+          simp only [sdiff_val]
+          refine Multiset.sub_le_sub_right ?_
+          simp
+          rw [card_sdiff]
+          exact congrFun (congrArg HSub.hSub (sized𝒜 x_in_𝒜)) #s
+          exact s_inter_a x x_in_𝒜
+        rw [←card𝒜_eq_cardℬ]
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:109]:
```suggestion
        rw [← card𝒜_eq_cardℬ]
```
and below

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 10]
```diff
@@ -0,0 +1,264 @@
...
+      have ⟨A₃,A₃_in_𝒜,A₃_prop⟩  := s_eq_inter_all (A₁ ∩ A₂) k_le_inter
+      have inter_lt_k : #((A₁ ∩ A₂) ∩ A₃) < k := by
+        by_contra k_le_inter₃
+        simp [not_lt,←inter_eq_k,←(card_inter_add_card_sdiff (A₁ ∩ A₂) A₃)] at k_le_inter₃
+        trivial
+      let U := A₁ ∪ A₂ ∪ A₃
+      have card_U : #U ≤ 3 * r := by
+        simp [U]
+        calc
+        #(A₁ ∪ (A₂ ∪ A₃)) ≤ #(A₁) + #(A₂ ∪ A₃) := card_union_le A₁ (A₂ ∪ A₃)
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:132]:
```suggestion
        #(A₁ ∪ (A₂ ∪ A₃)) ≤ #A₁ + #(A₂ ∪ A₃) := card_union_le A₁ (A₂ ∪ A₃)
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 11]
```diff
@@ -0,0 +1,264 @@
...
+        _ ≤ #A₁ + (#A₂ + #A₃) :=  by gcongr; exact card_union_le ..
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:133]:
```suggestion
        _ ≤ #A₁ + (#A₂ + #A₃) := by gcongr; exact card_union_le ..
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 12]
```diff
@@ -0,0 +1,264 @@
...
+          _ = #A₁ := by rw [sized𝒜 A₁_in_𝒜]
+          _ ≤ #U := by apply card_le_card;simp [U]
+      have succ_k_le_inter_a_U : ∀ a ∈ 𝒜 , k + 1 ≤ #(a∩U) := by
+        by_contra! ex
+        obtain ⟨a,a_in_𝒜,a_inter_le_k⟩ := ex
+        have k_le_inter_U : k ≤ #(a ∩ U) := by calc
+          k ≤ #(a ∩ A₁) := inter a a_in_𝒜 A₁ A₁_in_𝒜
+          _ ≤ #(a ∩ U) := by
+            apply card_le_card
+            simp [U,inter_subset_inter]
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:148]:
```suggestion
            simp [U, inter_subset_inter]
```
```suggestion
          _ ≤ #(a ∩ U) := by gcongr
```

File: LeanCamCombi/PlainCombi/intersectingFamilies.lean [hunk 13]
```diff
@@ -0,0 +1,264 @@
...
+          _ ≤ #(a ∩ A₃) + #(a ∩ (A₁ ∩ A₂)) - #(a ∩ (A₃ ∩ (A₁ ∩ A₂))) := by
+            solve_by_elim [Nat.sub_le_sub_right, Nat.add_le_add (inter a a_in_𝒜 A₃ A₃_in_𝒜)]
+          _ = #(a ∩ A₃) + #(a ∩ (A₁ ∩ A₂))- #(a ∩ A₃ ∩ (a ∩ (A₁ ∩ A₂))) := by
+            congr 2
+            rw [inter_inter_distrib_left]
+          _ = #(a ∩ A₃ ∪ (a ∩ (A₁ ∩ A₂)))  := by rw [card_union]
+          _ = #(a ∩ (A₃ ∪ (A₁ ∩ A₂))) := by rw [inter_union_distrib_left]
+          _ ≤ #(a∩U) := by
+            apply card_le_card
+            simp[inter_subset_inter_left,U]
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/intersectingFamilies.lean:181]:
```suggestion
          _ ≤ #(a ∩ U) := by
            gcongr
            simp [U]
```

**Comment by YaelDillies** [comment]
Can you please merge master? I've turned on the mathlib linters in the project, so you will need to fix a few things.

**Comment by YaelDillies** [comment]
Can you make sure to resolve the conversations you've dealt with? Also don't forget https://github.com/YaelDillies/LeanCamCombi/pull/41/files#r1938239953

**Comment by guojing0** [comment]
Hi @yahelmanor are you still working on this?

**Comment by yahelmanor** [comment]
Hi, sorry for the late reply
I dont work on this anymore. I am very sorry for disappearing and good luck
with this project

Best regards

(^.^)

בברכה יהל

**Comment by YaelDillies** [comment]
No worries and thank you for the heads up! @guojing0, do you want to take over where Yahel left off?

**Comment by guojing0** [comment]
> Hi, sorry for the late reply I dont work on this anymore. I am very sorry for disappearing and good luck with this project Best regards (^.^) בברכה יהל

No problems, thank you for your efforts!

> No worries and thank you for the heads up! @guojing0, do you want to take over where Yahel left off?

Yes, I think I can try. I'm also interested in https://github.com/YaelDillies/cam-combi/issues/36 and https://github.com/YaelDillies/cam-combi/issues/33.

Edit: *Should I just fork his repo or how do I continue from here?*

**Comment by YaelDillies** [comment]
Either @yahelmanor gives you write access to their fork, or you open a new PR from their branch (by adding their fork as a remote, fetching it, checking out their branch, creating a new branch from it, and publishing it to your own fork).

**Comment by guojing0** [comment]
> Either @yahelmanor gives you write access to their fork, or you open a new PR from their branch (by adding their fork as a remote, fetching it, checking out their branch, creating a new branch from it, and publishing it to your own fork).

I think I'll go with the second approach #50
